US07557114B2
(g) 5-Fluoro-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A3 (d) from 5-fluoro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and morpholine. Yellow solid. MS (m/e): 323.4 ([M+H]+, 100%).

reactant | 5-fluoro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)F)I | C13H15FINO2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5-Fluoro-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)F)N1CCOCC1 | C17H23FN2O3
